US09447054B2
80 μmol of 2,4-diaminophenol.2HCl and 80 μmol of 5-chloro-naphthalene-1-carboxylic acid were dissolved in 100 mg of PPA, and then, the mixed solution was stirred at a temperature of 180° C. for 3 to 4 hours. After completion of the reaction, the reaction solution was cooled, neutralized with 10% NaOH, and filtered by using distilled water for recrystallization in a slow manner, thereby obtaining 18.7 mg of 2-(5-chloronaphthalene-1-yl)benzo[d]oxazole-5-amine (Derivative #5) (yield: 79%).

reactant | 2,4-diaminophenol.2HCl | 80 μmol | C1=CC(=C(C=C1N)N)O.Cl.Cl
reactant | 5-chloro-naphthalene-1-carboxylic acid | 80 μmol | ClC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7ClO2
reactant | NaOH | [OH-].[Na+]
product | 2-(5-chloronaphthalene-1-yl)benzo[d]oxazole-5-amine | 18.7 mg, yield: 79% | ClC1=C2C=CC=C(C2=CC=C1)C=1OC2=C(N1)C=C(C=C2)N | C17H11ClN2O
